US05082951
To a solution of diethyl malonate (5.40 g, 33.8 mmol) in anhydrous N,N-dimethylformamide (50 mL) at 0° C. was added sodium hydride (60% in mineral oil, 1.35 g, 33.8 mmol). The reaction mixture was warmed and stirred at room temperature for 30 minutes. To this mixture was then added a solution of 1-(2-iodoethyl)-2-benzoylpyrrole (11.0 g, 33.8 mmol) in N,N-dimethylformamide (50 mL). The reaction mixture was stirred at room temperature for 16 hours. The mixture was poured into water (1000 mL) and extracted with ethyl acetate (3×300 mL). The ethyl acetate extracts were combined, washed with water (2×200 mL) and saturated aqueous sodium chloride (300 mL), dried (Na2SO4), and concentrated under reduced pressure. The crude oil was purified by column chromatography on silica gel eluting with hexane/ethyl acetate to provide 9.85 g (82%) of 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole.

reactant | diethyl malonate | 33.8 mmol, 5.40 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 33.8 mmol, 1.35 g | [H-].[Na+]
reactant | 1-(2-iodoethyl)-2-benzoylpyrrole | 33.8 mmol, 11.0 g | ICCN1C(=CC=C1)C(C1=CC=CC=C1)=O | C13H12INO
reactant | water | 1000 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole | 9.85 g, 82% | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)CCC(C(=O)OCC)C(=O)OCC | C20H23NO5
